US04620865
5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid (1.50 grams, 0.0046 mole) and carbonyldiimidazole (0.94 gram, 0.0058 mole) were dissolved in DMF. The reaction mixture was stirred for 10 minutes, then 7 ml. of 40% aqueous methylamine were added. The reaction mixture was stirred for three hours at room temperature, then poured into 150 ml. of water and filtered. The precipitate was dried to 1.51 grams, then recrystallized from 10:1 cyclohexane/toluene, yielding 1.23 grams of 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide, mp=143°-144° C.

reactant | 5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid | 0.0046 mole, 1.50 grams | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)(F)F | C11H5Cl2F3N2O2
reactant | carbonyldiimidazole | 0.0058 mole, 0.94 gram | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | CN | CH5N
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide | 1.23 grams | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)NC)(F)F | C12H8Cl2F3N3O
